US06897224B2
5-(5-Fluoro-2-methoxyphenyl)-5-methyl-3-(trifluoromethyl)hexane-2,3-diol
8 ml of 3 M methylmagnesium chloride-tetrahydrofuran solution is added in drops to the solution of 3.6 mg (11.7 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal in 150 ml of diethyl ether at +2° C. Stirring is continued for 1 hour at +2° C. and for 2 hours at room temperature. Then, it is hydrolyzed with saturated ammonium chloride solution while being cooled with ice, the organic phase is separated, dried on sodium sulfate and concentrated by evaporation. Column chromatography on silica gel with hexane-ethyl acetate yields 2.23 g of the product.

reactant | methylmagnesium chloride tetrahydrofuran | 3 M, 8 ml | C[Mg]Cl.O1CCCC1
reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 11.7 mmol, 3.6 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 5-(5-Fluoro-2-methoxyphenyl)-5-methyl-3-(trifluoromethyl)hexane-2,3-diol | 2.23 g | FC=1C=CC(=C(C1)C(CC(C(C)O)(O)C(F)(F)F)(C)C)OC | C15H20F4O3
